US04640916
By a process similar to that in Reference Example 13, 2-(2-hydroxyethyl)-2H-1,4-benzothiazin-3(4H)-one was allowed to react with thionyl chloride to give 2-(2-chloroethyl)-2H-1,4-benzothiazin-3(4H)-one. The yield was 72.7%. Recrystallization from methanol gave prisms, m.p. 133°-133.5° C.

reactant | 2-(2-hydroxyethyl)-2H-1,4-benzothiazin-3(4H)-one | OCCC1SC2=C(NC1=O)C=CC=C2 | C10H11NO2S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2-(2-chloroethyl)-2H-1,4-benzothiazin-3(4H)-one | yield was 72.7% | ClCCC1SC2=C(NC1=O)C=CC=C2 | C10H10ClNOS
